US05185358
A slurry of aminoguanidine bicarbonate (8.0 g, 59 mmol), dodecanoic acid (11.8 g, 59 mmol), and N,N-dimethylaniline (0.1 mL, 0.8 mmol) in toluene (100 mL) was heated under reflux with the azeotropic removal of water (72 hours). The resulting slurry was cooled (25° C.) and concentrated in vacuo. The residue was partitioned between ethyl acetate (300 mL) and saturated sodium bicarbonate (300 mL). The aqueous layer was back extracted with ethyl acetate, and the combined organics were washed with brine (1×250 mL), then dried (MgSO4), and concentrated in vacuo. The resulting solid was dissolved in hot chloroform and chromatographed on silica (first ethyl acetate, then 90:10 chloroform:methanol). The product containing fractions were combined and concentrated in vacuo to yield 6.9 g (49.1%) of 3-amino 5-undecyl-1H-1,2,4-triazole as an off-white powder, m.p. 128.5°-132.0° C.

reactant | aminoguanidine bicarbonate | 59 mmol, 8.0 g | C(O)(O)=O.NNC(=N)N
reactant | dodecanoic acid | 59 mmol, 11.8 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylaniline | 0.8 mmol, 0.1 mL | CN(C1=CC=CC=C1)C | C8H11N
product | 3-amino 5-undecyl-1H-1,2,4-triazole | 6.9 g, 49.1% | NC1=NNC(=N1)CCCCCCCCCCC | C13H26N4
